US05155108
A mixture of 58.7 g of 3-hydroxy-2,2-dimethyl-1-propylthiocyanate, 400 ml of acetic anhydride and 400 ml of pyridine was stirred for 16 hours at room temperature. The reaction solution was concentrated under reduced pressure. The residue was dissolved in 500 ml of diethyl ether. The solution was washed in turn with 1N-hydrochloric acid, water, aqueous sodium hydrogen carbonate solution and water, and dried over anhydrous magnesium sulfate. After removing the solvent, the residue was purified by distillation under reduced pressure, thereby affording 53.2 g of 3-acetoxy-2,2-dimethyl-1-propylthiocyanate.

reactant | 3-hydroxy-2,2-dimethyl-1-propylthiocyanate | 58.7 g | OCC(CSC#N)(C)C | C6H11NOS
reactant | acetic anhydride | 400 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 3-acetoxy-2,2-dimethyl-1-propylthiocyanate | 53.2 g | C(C)(=O)OCC(CSC#N)(C)C | C8H13NO2S
